US20010009958A1
Methyl 3-(4-cyano-phenoxymethyl)-benzoate:
10.00 kg (43.6 mol) of methyl 3-(bromomethyl)benzoate and 5.21 kg (43.74 mol) of 4-hydroxybenzonitrile are dissolved in 100 liters of acetone and stirred with 8.4 kg (60.7 mol) of potassium carbonate in the presence of 0.1 kg of sodium iodide for about 4 h under reflux conditions. Then 35 liters of acetone are distilled off and 100 liters of water are added at reflux conditions. The reaction mixture is cooled to 20° C. and the crystallisation is completed by the addition of another 30 liters of water. The crystals formed are separated off, washed with 50 liters of water and dried in vacuo.

reactant | methyl 3-(bromomethyl)benzoate | 43.6 mol, 10.00 kg | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | 4-hydroxybenzonitrile | 43.74 mol, 5.21 kg | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | potassium carbonate | 60.7 mol, 8.4 kg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.1 kg | [I-].[Na+]
solvent | acetone | 100 liters | CC(=O)C | C3H6O
product | Methyl 3-(4-cyano-phenoxymethyl)-benzoate | C(#N)C1=CC=C(OCC=2C=C(C(=O)OC)C=CC2)C=C1 | C16H13NO3
